US04353827
20 g (0.114 mol) of 4-ethylisatin are suspended in 75 ml of 100 percent acetic acid, treated portionwise with 26 g (0.137 mol) of m-chloroperbenzoic acid, the temperature not rising above 50°, and then the mixture is stirred at this temperature for a further 15 minutes. The mixture is poured into ice-water and filtered. The crude product obtained is taken up in ethyl acetate and extracted cautiously with a mixture of 2 N sodium hydroxide and ice. The ethyl acetate phase is dried over magnesium sulphate and concentrated to give crude 6-ethylisatoic acid anhydride which melts at 202°-204° after recrystallization from ethyl acetate.

reactant | 4-ethylisatin | 0.114 mol, 20 g | C(C)C1=C2C(C(NC2=CC=C1)=O)=O | C10H9NO2
reactant | m-chloroperbenzoic acid | 0.137 mol, 26 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-ethylisatoic acid anhydride | C(C)C=1C=CC=C2C1C(=O)OC(N2)=O | C10H9NO3
